US07115620B2
1-(4-Dimethylamino-phenyl)-3-(2,2-dimethyl-propyl)-2-thioxo-imidazolidine-4,5-dione Hydrochloride
Ethyl chlorooxoacetate (3.4 mL, 30 mmol) was added dropwise to a stirring solution of N-[4-(dimethylamino)phenyl]-N′-(2,2-dimethylpropyl)-thiourea (3.98 g, 15 mmol) in dichloromethane (100 mL) and the resulting mixture was stirred at room temperature overnight. The solvent was evaporated. The residue was treated with ether (100 mL) and the mixture was stirred for one hour. The solid was collected by filtration, washed with fresh ether and dried to give 5.3 g (100%) of the title compound: mp. 244–246° C.; 1H NMR (DMSO-d6): δ7.28 (d, 2H), 7.20 (br s, 2H), 3.74 (s, 2H), 3.02 (s, 6H), and 0.98 ppm (s, 9H); IR (KBr) 3640, 3080, 2350, 1775 cm−1; MS (m/z) 319 (M+).

reactant | Ethyl chlorooxoacetate | 30 mmol, 3.4 mL | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | N-[4-(dimethylamino)phenyl]-N′-(2,2-dimethylpropyl)-thiourea | 15 mmol, 3.98 g | CN(C1=CC=C(C=C1)NC(=S)NCC(C)(C)C)C | C14H23N3S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(4-Dimethylamino-phenyl)-3-(2,2-dimethyl-propyl)-2-thioxo-imidazolidine-4,5-dione Hydrochloride | 5.3 g, 100% | Cl.CN(C1=CC=C(C=C1)N1C(N(C(C1=O)=O)CC(C)(C)C)=S)C | InChI=1S/C16H21N3O2S.ClH/c1-16(2,3)10-18-13(20)14(21)19(15(18)22)12-8-6-11(7-9-12)17(4)5;/h6-9H,10H2,1-5H3;1H
